US08048901B2
(1R,3S)-2-{2-[3-(5-Methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxy]ethoxy}phenylboronic acid
Unpurified (1S,3R)-5-methyl-4-(3-{2-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenoxy]ethoxy}cyclohexyloxymethyl)-2-m-tolyloxazole is taken up in 6 ml of THF, and 0.75 ml of 1N HCl is added. After 3 h of stirring at room temperature, the solvent is evaporated and the residue is taken up in DMF then purified by RP-HPLC. This gives (1R,3S)-2-{2-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxy]ethoxy}phenylboronic acid as a colorless oil. 465.36 (C26H32BNO6), MS (ESI): 466 (M+H+).

reactant | (1S,3R)-5-methyl-4-(3-{2-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenoxy]ethoxy}cyclohexyloxymethyl)-2-m-tolyloxazole | CC1=C(N=C(O1)C=1C=C(C=CC1)C)CO[C@@H]1C[C@@H](CCC1)OCCOC1=C(C=CC=C1)B1OC(C(O1)(C)C)(C)C | C32H42BNO6
reactant | HCl | 1N, 0.75 ml | Cl | ClH
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | (1R,3S)-2-{2-[3-(5-Methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxy]ethoxy}phenylboronic acid | CC1=C(N=C(O1)C=1C=C(C=CC1)C)CO[C@@H]1C[C@@H](CCC1)OCCOC1=C(C=CC=C1)B(O)O | C26H32BNO6
